US04304770
A mixture of 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(4-allyl-4H-1,2,4-triazol-3-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.9 g), conc.hydrochloric acid (0.3 ml), methanol (7 ml) and tetrahydrofuran (7 ml) was stirred for 4.5 hours at ambient temperature. The solvent was distilled off under reduced pressure and the residue was dissolved in a saturated aqueous solution of sodium bicarbonate. The aqueous solution was washed with ethyl acetate (25 ml) and adjusted to pH 2.0 with 10% hydrochloric acid. Precipitates were collected by filtration, washed with water and dried to give 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(4-allyl-4H-1,2,4-triazol-3-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.5 g).

reactant | 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(4-allyl-4H-1,2,4-triazol-3-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.9 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=CN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C20H20N8O6S3
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
reactant | methanol | 7 ml | CO | CH4O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(4-allyl-4H-1,2,4-triazol-3-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.5 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=CN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)N | C19H20N8O5S3
